US06710040B1
(S)-2-amino-1-(3,3-difluoro-azetidin-1-yl)-3-methyl-pentan-1-one hydrochloride was prepared by coupling 3,3-difluoro-azetidine hydrochloride (WO 0047582) with Boc-(L)-isoleucine followed by HCl deprotection as analogously described in Example 1 (mp 195° C. dec.).

reactant | 3,3-difluoro-azetidine hydrochloride | Cl.FC1(CNC1)F
reactant | Boc-(L)-isoleucine | C(=O)(OC(C)(C)C)N[C@@H]([C@@H](C)CC)C(=O)O | C11H21NO4
reactant | HCl | Cl | ClH
product | (S)-2-amino-1-(3,3-difluoro-azetidin-1-yl)-3-methyl-pentan-1-one hydrochloride | Cl.N[C@H](C(=O)N1CC(C1)(F)F)C(CC)C | InChI=1S/C9H16F2N2O.ClH/c1-3-6(2)7(12)8(14)13-4-9(10,11)5-13;/h6-7H,3-5,12H2,1-2H3;1H/t6?,7-;/m0./s1
